US03985746
3-Bromo-7-cyanomethylthioacetamido-3-cephem-4-Carboxylic Acid Benzhydryl Ester
The desired product is prepared from 7-cyanomethylthioacetamido-3-cephem-3-ol-4-carboxylic acid benzhydryl ester using the procedure described in Example 5, but replacing phosphorus trichloride with phosphorus tribromide.

reactant | 7-cyanomethylthioacetamido-3-cephem-3-ol-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(CCC#N)=S)=O)O | C24H21N3O4S2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 3-Bromo-7-cyanomethylthioacetamido-3-cephem-4-Carboxylic Acid Benzhydryl Ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(CCC#N)=S)=O)Br | C24H20BrN3O3S2
